US05036067
Step 1:Methyl 2-acetyl-10,11-dihydrodibenzo-[b,f]thiepin-7-carboxylate
To a solution of 2-acetyl-10,11-dihydro-dibenzo[b,f]thiepin-7-carboxylic acid (U.S. Pat. No. 4,536,507 (1985)) (600 mg, 2.01 mmol) in ethyl acetate (10 mL), was added dropwise a solution of diazomethane in ether until the yellow coloration persisted. Evaporation of the solvent gave the crude title compound as a solid which was used as such.

reactant | 2-acetyl-10,11-dihydro-dibenzo[b,f]thiepin-7-carboxylic acid | C(C)(=O)C1=CC2=C(SC3=C(CC2)C=CC(=C3)C(=O)O)C=C1 | C17H14O3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | Methyl 2-acetyl-10,11-dihydrodibenzo-[b,f]thiepin-7-carboxylate | C(C)(=O)C1=CC2=C(SC3=C(CC2)C=CC(=C3)C(=O)OC)C=C1 | C18H16O3S
